US04891372
3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine dihydrochloride
3-[2-(4-Acetylamino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (1 g) was stirred in 6M hydrochloric acid (20 ml) at 90° for 18 hours. After cooling, the precipitate was collected by filtration and recrystallised from ethanol to give the title compound, yield 0.65 g, m.p. 253°-256°.

reactant | 3-[2-(4-Acetylamino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 1 g | C(C)(=O)NC1=C(C=C(OCCN2CCC3=C(CC2)C=CC(=C3)[N+](=O)[O-])C=C1)C | C21H25N3O4
reactant | hydrochloric acid | 6M, 20 ml | Cl | ClH
product | 3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine dihydrochloride | Cl.Cl.NC1=C(C=C(OCCN2CCC3=C(CC2)C=CC(=C3)[N+](=O)[O-])C=C1)C | InChI=1S/C19H23N3O3.2ClH/c1-14-12-18(4-5-19(14)20)25-11-10-21-8-6-15-2-3-17(22(23)24)13-16(15)7-9-21;;/h2-5,12-13H,6-11,20H2,1H3;2*1H
